US06344459B1
A mixture of 4-[(3-bromophenyl)amino]-6-fluoropyrido[3,4-d]pyrimidine (0.48 g) and 4-methoxybenzylamine (10.3 g) in ethanol (50 mL) was heated to 100° C. for 5 days. The resulting product was chromatographed on silica gel, eluting with CH2Cl2:EtOAc (3:1), to give 4-[(3-bromophenyl)amino]-6-[(4-methoxyphenyl)methylamino]pyrido[3,4-d]pyrimidine (0.18 g,) mp (aqueous methanol), 178-179.5° C. A 0.10 g portion of this was dissolved in 5 mL trifluoroacetic acid and heated under reflux for 1 hour, and the mixture was evaporated to dryness. The residue was partitioned between EtOAc and aqueous ammonia, and the crude product was chromatographed on alumina, eluting with CH2Cl2:MeOH (97:3) to give 6-amino-4-[(3-bromophenyl)amino]pyrido[3,4-d]pyrimidine (0.040 g,), mp (CH2Cl2) 241.5-242° C.

reactant | 4-[(3-bromophenyl)amino]-6-fluoropyrido[3,4-d]pyrimidine | 0.48 g | BrC=1C=C(C=CC1)NC=1C2=C(N=CN1)C=NC(=C2)F | C13H8BrFN4
reactant | 4-methoxybenzylamine | 10.3 g | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 4-[(3-bromophenyl)amino]-6-[(4-methoxyphenyl)methylamino]pyrido[3,4-d]pyrimidine | 0.18 g | BrC=1C=C(C=CC1)NC=1C2=C(N=CN1)C=NC(=C2)NCC2=CC=C(C=C2)OC | C21H18BrN5O
